US04336202
96.5 mg of 2-ethoxy-4-oxo-2,3,4,5,6,7-hexahydrocoumarone and 1.5 ml of 28% aqueous ammonia were admixed in a glass tube which was sealed and heated at 100° C. for 14 hours. The reaction mixture was treated in the same manner as Example 11 to give 38.4 mg of 4-oxo-4,5,6,7-tetrahydroindole (yield 54%).

reactant | 2-ethoxy-4-oxo-2,3,4,5,6,7-hexahydrocoumarone | 96.5 mg | C(C)OC1OC=2CCCC(C2C1)=O | C10H14O3
reactant | ammonia | 1.5 ml | N | H3N
product | 4-oxo-4,5,6,7-tetrahydroindole | 38.4 mg, yield 54% | O=C1C=2C=CNC2CCC1 | C8H9NO
